US09145380B2
c) 2-(4-Chloro-2-methoxy-phenyl)-ethenesulfonic acid ethyl ester
A 2.5M solution of n-butyllithium in hexanes (6.15 mL, 15.37 mmol) was added dropwise to a stirred solution of (diethoxy-phosphoryl)-methanesulfonic acid ethyl ester (4.0 g, 15.37 mmol) in THF (200 mL) at −78° C. The reaction mixture was stirred at −78° C. for 15 minutes. A solution of 4-chloro-2-methoxy-benzaldehyde (2.41 g, 14.10 mmol) in THF (20 mL) was then added dropwise. After the addition was complete the reaction mixture was warmed to RT, stirred for 1 h and quenched with brine. The reaction mixture was concentrated under reduced pressure and DCM (200 mL) was added. The organic layer was separated, washed with brine (3×100 mL) and dried over MgSO4. Removal of solvent under reduced pressure, followed by purification on silica gel using hexane/ethyl acetate, 4:1 to 2:1 afforded the title compound (3.90 g, quantitative) as a white solid.

reactant | n-butyllithium | C(CCC)[Li]
reactant | (diethoxy-phosphoryl)-methanesulfonic acid ethyl ester | 15.37 mmol, 4.0 g | C(C)OS(=O)(=O)CP(=O)(OCC)OCC | C7H17O6PS
reactant | 4-chloro-2-methoxy-benzaldehyde | 14.10 mmol, 2.41 g | ClC1=CC(=C(C=O)C=C1)OC | C8H7ClO2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-(4-Chloro-2-methoxy-phenyl)-ethenesulfonic acid ethyl ester | 3.90 g | C(C)OS(=O)(=O)C=CC1=C(C=C(C=C1)Cl)OC | C11H13ClO4S
